US06740777B2
To a solution of 4-acetylthiomethyl-[1,1′-biphenyl]-2,3′-dicarboxylic acid, dimethyl ester (0.27 g, 0.75 mmol) in deoxygenated THF was added a degassed solution of sodium hydroxide (0.12 g, 3.0 mmol) in H2O (5 mL) at rt. After 24 h, additional solution of sodium hydroxide (0.09 g) in H2O (2 mL) was added to the reaction mixture and the mixture was stirred for 24 h. The mixture was acidified with 10% HCl and extracted with EtOAc. The extract was dried over MgSO4 and concentrated. The crude material was purified by column chromatography with (9:1 dichloromethane/EtOAc with 1% acetic acid) to afford 4-mercaptomethyl-[1,1′-biphenyl]-2,3′-dicarboxylic acid (0.20 g, 92%) as a white solid: 1H NMR (DMSO-d6) δ3.10 (t, J=8.03 Hz, 1H), 3.89 (d, J=8.03 Hz, 2H), 7.43 (d, J=7.53 Hz, 1H), 7.58-7.65 (m, 3H), 7.83 (d, J=2.01 Hz, 1H), 7.92 (s, 1H), 7.97-8.00 (m, 1H). Anal. Calcd. for C15H12O4S.0.5AcOH: C, 60.37; H, 4.43; O, 25.13; S, 10.07. Found: C, 60.28; H, 4.45; S, 10.15.

reactant | 4-acetylthiomethyl-[1,1′-biphenyl]-2,3′-dicarboxylic acid, dimethyl ester | 0.75 mmol, 0.27 g | C(C)(=O)SCC=1C=C(C(=CC1)C1=CC(=CC=C1)C(=O)OC)C(=O)OC | C19H18O5S
reactant | sodium hydroxide | 3.0 mmol, 0.12 g | [OH-].[Na+]
reactant | sodium hydroxide | 0.09 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 5 mL | O | H2O
solvent | H2O | 2 mL | O | H2O
product | 4-mercaptomethyl-[1,1′-biphenyl]-2,3′-dicarboxylic acid | 0.20 g, 92% | SCC=1C=C(C(=CC1)C1=CC(=CC=C1)C(=O)O)C(=O)O | C15H12O4S
